US06177590B1
A stirred-tank cascade consisting of 3 stirred reactors, each of 1 l reaction volume, which are equipped with column, condenser and phase-separation vessel, was charged with 558 g of acrylic acid, 648 g of n-butanol, 16 g of sulfuric acid and 1 g of phenothiazine per hour. The reaction temperature in the reactors was 106° C., 118° C. and 123° C., respectively, and the pressure was 700 mbar. At the top of the column, a mixture of water, n-butanol and n-butyl acrylate was produced, which separated into an aqueous and an organic phase, the organic phase being fed as reflux to the column.

reactant | acrylic acid | 558 g | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | 16 g | S(O)(O)(=O)=O | H2O4S
reactant | phenothiazine | 1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | n-butanol | 648 g | C(CCC)O | C4H10O
product | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
